US07723345B2
Benzylmercaptan (0.14 g, 1.11 mmol) was treated with NaH (60% in mineral oil, 67 mg, 1.66 mmol) in dry THF (15 ml) for 30 minutes. 2-Amino-4,6-dichloropyrimidine (0.2 g, 1.22 mmol) was added and the mixture was stirred overnight. The mixture was diluted with methylenechloride, washed with water, then brine, dried over MgSO4, and concentrated to give 0.11 g of 4-(benzylthio)-6-chloropyrimidin-2-amine.

reactant | Benzylmercaptan | 1.11 mmol, 0.14 g | C(C1=CC=CC=C1)S | C7H8S
reactant | NaH | 1.66 mmol, 67 mg | [H-].[Na+]
reactant | 2-Amino-4,6-dichloropyrimidine | 1.22 mmol, 0.2 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 4-(benzylthio)-6-chloropyrimidin-2-amine | 0.11 g | C(C1=CC=CC=C1)SC1=NC(=NC(=C1)Cl)N | C11H10ClN3S
